US08426422B2
methyl 2-(1H-indol-4-yloxy)-4-fluorobenzoate
Methyl 2,4-difluorobenzoate (2 g, 11.6 mmol)), K3PO4 (2.4 g, 11.3 mmol) and 4-hydroxyindazole (1.40 g, 10.5 mmol) were stirred at 115° C. in diglyme (20 mL) for 24 hours. The reaction was cooled and poured into ether. The solution was washed three times with 1M NaOH solution, followed by brine, and then dried over Na2SO4 and filtered. The filtrate was then concentrated, and the crude product was chromatographed on silica gel with 20% ethyl acetate/hexanes.

reactant | Methyl 2,4-difluorobenzoate | 11.6 mmol, 2 g | FC1=C(C(=O)OC)C=CC(=C1)F | C8H6F2O2
reactant | K3PO4 | 11.3 mmol, 2.4 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 4-hydroxyindazole | 10.5 mmol, 1.40 g | OC1=C2C=NNC2=CC=C1 | C7H6N2O
reactant | ether | CCOCC | C4H10O
solvent | diglyme | 20 mL | COCCOCCOC | C6H14O3
product | methyl 2-(1H-indol-4-yloxy)-4-fluorobenzoate | N1C=CC2=C(C=CC=C12)OC1=C(C(=O)OC)C=CC(=C1)F | C16H12FNO3
